US04266056
Following the above procedure, p-methoxyaniline (0.05 mol) is reacted with α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide (0.05 mol) to yield α-cyano-β-(4-methoxyanilino)-N-ethoxycarbonylacrylamide, which is cyclized by heating in tetralin to yield 5-cyano-1-(4-methoxyphenyl)uracil, m.p. 304.5°-306.5°.

reactant | p-methoxyaniline | 0.05 mol | COC1=CC=C(N)C=C1 | C7H9NO
reactant | α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide | 0.05 mol | C(#N)C(C(=O)NC(=O)OCC)=COCC | C9H12N2O4
product | α-cyano-β-(4-methoxyanilino)-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=CNC1=CC=C(C=C1)OC | C14H15N3O4
